US04943386
3-Fluoro-4-dodecyloxybenzoic acid chloride (3.32 g: 10 mmols) and 2.84 g (10 mmols) of (S)-2-methylbutyl 4'-hydroxybiphenyl-4-carboxylate were reacted in 10 ml of pyridine and 15 ml of methylene chloride for 3 hours under reflux. After the reaction mixture was left to cool, 50 ml of ethyl acetate was added, and washed twice with 10% hydrochloric acid and once with each of a saturated sodium bicarbonate aqueous solution, water and a saturated sodium chloride aqueous solution. After the reaction product was dried with anhydrous sodium sulfate, the solvent was concentrated. Crude crystals obtained were purified by silica gel column chromatography (solvent: chloroform-hexane), and recrystallized from ethanol to obtain 4.64 g of 4{(S)-2-methylbutyloxycarbonyl]phenyl)phenyl 3-fluoro-dodecyloxybenzoate.

reactant | 3-Fluoro-4-dodecyloxybenzoic acid chloride | 10 mmols, 3.32 g | FC=1C=C(C(=O)Cl)C=CC1OCCCCCCCCCCCC | C19H28ClFO2
reactant | (S)-2-methylbutyl 4'-hydroxybiphenyl-4-carboxylate | 10 mmols, 2.84 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC[C@H](CC)C | C18H20O3
reactant | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | phenyl 3-fluoro-dodecyloxybenzoate | FC=1C(=C(C(=O)OC2=CC=CC=C2)C=CC1)OCCCCCCCCCCCC | C25H33FO3
